US08492372B2
N-[(7-BROMO-5-FLUORO-4H-1,3-BENZODIOXIN-2-YL)METHYL]PROPAN-1-AMINE
Preparation according to Example 3. 7-bromo-2-(bromomethyl)-5-fluoro-4H-1,3-benzodioxine (0.20 g, 0.60 mmol), propan-1-amine (1.0 ml, 12.2 mmol) and EtOH (3.0 ml)was heated at 130° C. for 20 min. Purification by flash column chromatography (EtOAc/MeOH 10:1) gave the title compound (0.15 g, 82%). The amine was converted into the oxalic acid salt and was crystallised with MeOH/DEE (0.17 g). M.p. 215° C. MS m/z (rel. intensity, 70 eV) 304 (M+, 3), 302 (M+, 3), 205 (10), 203 (10), 72 (bp).

reactant | 7-bromo-2-(bromomethyl)-5-fluoro-4H-1,3-benzodioxine | 0.60 mmol, 0.20 g | BrC=1C=C(C2=C(OC(OC2)CBr)C1)F | C9H7Br2FO2
reactant | propan-1-amine | 12.2 mmol, 1.0 ml | C(CC)N | C3H9N
solvent | EtOH | 3.0 ml | CCO | C2H6O
product | N-[(7-BROMO-5-FLUORO-4H-1,3-BENZODIOXIN-2-YL)METHYL]PROPAN-1-AMINE | 0.15 g, 82% | BrC=1C=C(C2=C(OC(OC2)CNCCC)C1)F | C12H15BrFNO2
